US07465825B2
2-Benzyl-3-(4′-bromomethylbiphen-4-yl)benzofuran
To a solution of 4′-(2-benzylbenzofuran-3-yl)biphenyl-4-methanol (5.01 g, 12.7 mmol) in anhydrous acetonitrile (75 mL) was added dibromtriphenylphosphorane (5.45 g, 12.7 mmol) as a solid portionwise over 15 mins. The reaction was stirred for 2 hours (TLC control) and then poured into water (100 mL) and extracted with diethyl ether (3×100 mL). The combined extract was washed with water, brine, dried over anhydrous MgSO4, filtered and concentrated in vacuo to afford the title compound as an off-white solid (4.98 g, 87%): 1H NMR (CDCl3, 300 MHz): δ 7.70 (2H, m, Ar—H), 7.63 (4H, m, Ar—H), 7.50 (3H, m, Ar—H), 7.30 (4H, m, Ar—H), 7.25 (4H, m, Ar—H), 4.57 (2H, s, CH2Br), 4.26 (2H, PhCH2).

reactant | 4′-(2-benzylbenzofuran-3-yl)biphenyl-4-methanol | 12.7 mmol, 5.01 g | C(C1=CC=CC=C1)C=1OC2=C(C1C1=CC=C(C=C1)C1=CC=C(C=C1)CO)C=CC=C2 | C28H22O2
reactant | dibromtriphenylphosphorane | 12.7 mmol, 5.45 g | BrP(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)Br | C18H15Br2P
reactant | water | 100 mL | O | H2O
solvent | acetonitrile | 75 mL | C(C)#N | C2H3N
product | 2-Benzyl-3-(4′-bromomethylbiphen-4-yl)benzofuran | 4.98 g, 87% | C(C1=CC=CC=C1)C=1OC2=C(C1C1=CC=C(C=C1)C1=CC=C(C=C1)CBr)C=CC=C2 | C28H21BrO
